US07432392B2
2-Ethoxycarbonyl-2-phenylpentanedioic acid diethyl ester (670 mg) was dissolved in THF (2 mL) and EtOH (2 mL), and thereto was added 1N sodium hydroxide (2 mL). The solution was stirred at room temperature for 1 hour and concentrated. The residue was acidified with 2N hydrochloric acid and extracted with ethyl acetate. The extract was washed with water and concentrated to give 2-ethoxycarbonyl-2-phenylpentanedioic acid 1-ethyl ester (517 mg).

reactant | 2-Ethoxycarbonyl-2-phenylpentanedioic acid diethyl ester | 670 mg | C(C)OC(C(CCC(=O)OCC)(C1=CC=CC=C1)C(=O)OCC)=O | C18H24O6
reactant | sodium hydroxide | 1N, 2 mL | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOH | 2 mL | CCO | C2H6O
product | 2-ethoxycarbonyl-2-phenylpentanedioic acid 1-ethyl ester | 517 mg | C(C)OC(C(CCC(=O)O)(C1=CC=CC=C1)C(=O)OCC)=O | C16H20O6
